US08247576B2
78B. 4-(4-Chloro-phenyl)-4-[4-(3-methyl-1H-pyrazol-4-yl)-phenyl]-piperidine
A suspension of 4-(4-chloro-phenyl)-4-[4-(3-methyl-1-trityl-1H-pyrazol-4-yl)-phenyl]-piperidine (178 mg, 0.30 mmol) in 5N hydrochloric acid (5 mL), THF (5 mL) and methanol (5 mL) was stirred for 140 minutes. The organic solvents were removed in vacuo then the resulting solution was diluted with 2N HCl and washed with ether. The aqueous phase was basified by addition of sodium hydroxide pellets then extracted with ethyl acetate. This organic extract was washed with brine, dried (MgSO4), filtered and concentrated to give a residue which was purified by column chromatography (SiO2), eluting with a gradient of 2M ammonia in methanol (5% to 7.5%) and dichloromethane. The product was further purified by preparative HPLC to give the title compound which was converted to its dihydrochloride salt (84 mg, 80%); LCMS (PS-A3) Rt 6.86 min [M+H]+ 352. 1H NMR (Me-d3-OD) δ 2.55 (3H, s), 2.70-2.75 (4H, m), 3.22-3.27 (4H, m), 7.35-7.41 (4H, m), 7.47-7.54 (4H, m), 8.32 (2H, s).

reactant | 4-(4-chloro-phenyl)-4-[4-(3-methyl-1-trityl-1H-pyrazol-4-yl)-phenyl]-piperidine | 0.30 mmol, 178 mg | ClC1=CC=C(C=C1)C1(CCNCC1)C1=CC=C(C=C1)C=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C40H36ClN3
solvent | hydrochloric acid | 5N, 5 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 4-(4-Chloro-phenyl)-4-[4-(3-methyl-1H-pyrazol-4-yl)-phenyl]-piperidine | ClC1=CC=C(C=C1)C1(CCNCC1)C1=CC=C(C=C1)C=1C(=NNC1)C | C21H22ClN3
